US05159061
(I) Production of Boc-Val-Cys(MBzl)-Phe-Gly-Gly-OH
Using 300 mg Boc-Cys(MBzl)-Phe-Gly-Gly-OH, 118 mg Boc-Val-OH, 110 mg HONB and 124 mg DCC, the desired product was obtained in the same manner as in Example 1-(XXI).

reactant | Boc-Cys(MBzl)-Phe-Gly-Gly-OH | 300 mg | N([C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)NCC(=O)O)C(=O)OC(C)(C)C | C29H38N4O7S
reactant | Boc-Val-OH | 118 mg | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | HONB | 110 mg | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 124 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Boc-Val-Cys(MBzl)-Phe-Gly-Gly-OH | N([C@@H](C(C)C)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)NCC(=O)O)C(=O)OC(C)(C)C | C34H47N5O8S
